US04734410
1(f) 3(S*)-Azido-6(R*)-phenylperhydroazepin-2-one (Isomer A)
2.0 g of sodium azide were added to 20 ml of dimethylformamide containing 1.6 g of 3-bromo-6-phenylperhydroazepin-2-one (Isomer A) [prepared as described in step (e) above]. The mixture was stirred for 6 hours at 60° C. and then diluted with ethyl acetate, washed with water three times and dried over anhydrous magnesium sulfate. The solvent was then distilled off. The crystalline residue was triturated in a 1:1 by volume mixture of methylene chloride and diisopropyl ether and then collected by filtration, to give 1.14 g of the title compound melting at 150°-152° C. (with decomposition).

reactant | sodium azide | 2.0 g | [N-]=[N+]=[N-].[Na+]
reactant | dimethylformamide | 20 ml, 1.6 g | CN(C=O)C | C3H7NO
reactant | 3-bromo-6-phenylperhydroazepin-2-one | BrC1C(NCC(CC1)C1=CC=CC=C1)=O | C12H14BrNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3(S*)-Azido-6(R*)-phenylperhydroazepin-2-one | 1.14 g | N(=[N+]=[N-])[C@H]1C(NC[C@@H](CC1)C1=CC=CC=C1)=O | C12H14N4O
